2158-12-05 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Relative hypotension
   24 Hour Events:
   - Made NPO past MN for potential VATS today
   - PD overnight
   - Sputum and pleural fluid - gram stain with GPC in pair and clusters
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-12-4**] 10:45 PM
   Nafcillin - [**2158-12-5**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-12-4**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-12-5**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 97 (88 - 101) bpm
   BP: 123/54(72) {103/53(66) - 145/65(81)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 99%
   Height: 65 Inch
             Total In:
                                                                    230 mL
                                                                    350 mL
   PO:
                                                                    180 mL
                                                                    150 mL
   TF:
   IVF:
                                                                     50 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     55 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    230 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   Left-sided pigtail and chest tube in place to suction
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   553 K/uL
   6.8 g/dL
   288 mg/dL
   13.3 mg/dL
   21 mEq/L
   3.7 mEq/L
   86 mg/dL
   87 mEq/L
   128 mEq/L
   21.0 %
   20.0 K/uL
        [image002.jpg]
                            [**2158-12-5**]  03:50 AM
   WBC
   20.0
   Hct
   21.0
   Plt
   553
   Cr
   13.3
   Glucose
   288
   Other labs: PT / PTT / INR:18.1/34.1/1.7, Ca++:8.4 mg/dL, Mg++:2.7
   mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   56 year-old female with a history of type 2 DM, ESRD on PD who
   initially presented with pneumonia and MSSA bacteremia, with
   progression of pulmonary findings on CT and placement of a chest tube,
   transferred to the MICU with relative hypotension.
   # Pneumonia with left-sided effusion: Patient was initially treated
   with levofloxacin for community-acquired pneumonia.  2/2 blood cultures
   from [**11-28**] on admission grew MSSA, and patient was started on
   nafcillin.  Chest x-ray showed persistent effusion -> chest CT [**12-3**]
   showed a cavitary lesion in left lower lobe and a fluid collection,
   concerning for pulmonary abscess/bronchopleural fistula.
   Interventional Pulmonary placed a pigtail catheter and subsequently a
   chest tube [**12-4**].  Pleural studies pending but indicative of an
   exudate, with gram stain showing GPC.  Influenza negative on
   admission.  Sputum cultures pending.
   - Continue nafcillin, levofloxacin -> add zosyn for improved gram
   negative coverage given relative hypotension
   - [**Name (NI) **] following and plan for OR today for debridement and
   placement of larger chest tube
   - Follow blood, sputum, pleural fluid studies
   - Chest tube in place to suction
   - IP following; appreciate
   - PPD placed [**2158-12-4**] (negative in [**2155**] per OMR)
   - AFB x 1 [**12-4**]; needs two additional induced sputum
   - Continue standing nebulizers, tessalon perles, guaifenesin with
   codeine, and morphine as needed for cough
   # Relative hypotension: Improved on transfer after 500cc NS.  Unclear
   etiology
 may be due to infection versus hypovolemia.  Patient did not
   have tension pneumothorax.
   - Continue nafcillin, levofloxacin -> add zosyn for improved coverage
   given relative hypotension
   - Goal even for PD today
   - Hold metoprolol
   # Leukocytosis with bandemia: Patient with pneumonia and empyema as
   above.  MSSA bacteremia from admission.  No other obvious sources - PD
   fluid negative for infection, C. difficile negative x 1.
   - Continue nafcillin, levofloxacin -> add zosyn given relative
   hypotension
   - Follow blood, sputum, pleural, stool cultures
   - Consider TTE to evaluate for endocarditis
   # Bacteremia: 2/2 blood cultures from admission MSSA [**11-28**] from
   admission.  [**Month (only) 60**] be related to pulmonary infection.  No other obvious
   source - no skin breaks, recent dental procedures.
   - Continue nafcillin
   - Consider TTE to evaluate for endocarditis
   # ESRD on PD: [**Name (NI) 552**] husband performing PD per her home regimen.
   - Renal aware
   - PD tonight
 goal even
   - Continue nephrocaps, sevelamer and lanthanum
   - One liter fluid restriction
   - Aggressive bowel regimen to improve PD performance
   # Anemia: Normocytic.  Baseline mid-20s; trending down since
   admission.  No signs or symptoms of active bleeding.
   - Continue epo
   - Guaiac stools
   - Transfuse < 21
   - Monitor daily
   # Coronary artery disease: Status post bare metal stenting.  No signs
   or symptoms of active ischemia.  EKG unchanged.  Cardiac enzymes at
   baseline on admission.
   - Continue ASA 81 mg daily, statin
   - Holding metoprolol, lisinopril given hypotension as above
   # Anion gap: Chronic in the setting of renal failure.  Improved.  Serum
   acetone negative on admission.
   - Monitor
   # Thyroid nodule: Incidentally noted on CT chest.
   - Outpatient evaluation
   ICU Care
   Nutrition:
   Comments: NPO for potential VATS
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2158-12-4**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2158-12-05 10:46:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 year old woman with PMH type DM , ESRD on PD, CAD who presented to
   the ED [**11-28**] with fever, pleuritic chest pain and cough. Left sided
   infiltrate on CXR admitted to MICU and treated with levo + ceftriaxone.
   2/2 Blood cultures from admission have sense returns with MSSA and she
   has been on Naf + levo. transferred to the floor where she was doing
   well but developed a new leukocytosis which promted a chest CT. CT was
   notable for LLL cavitary lesion, possible BPF and empeyema. S/P chest
   tube with GPC on pleural fluid gram stain. O n night of transfer, had
   fluid responsive hypotension to SBP 90's and transfered to the MICU.
   24 Hour Events:
   Admitted to the MICU
   Now on 4L NC
   Normal SBP o/n
   PD o/n
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-12-4**] 10:45 PM
   Nafcillin - [**2158-12-5**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-12-4**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-12-5**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 93 (88 - 101) bpm
   BP: 136/56(71) {103/53(66) - 145/65(81)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 98%
   Height: 65 Inch
             Total In:
                                                                    230 mL
                                                                    350 mL
   PO:
                                                                    180 mL
                                                                    150 mL
   TF:
   IVF:
                                                                     50 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     55 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    230 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l bases), No leak in
   chest tube which remains to suction
   Abdominal: Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   553 K/uL
   288 mg/dL
   13.3 mg/dL
   21 mEq/L
   3.7 mEq/L
   86 mg/dL
   87 mEq/L
   128 mEq/L
   21.0 %
   20.0 K/uL
        [image002.jpg]
                            [**2158-12-5**]  03:50 AM
   WBC
   20.0
   Hct
   21.0
   Plt
   553
   Cr
   13.3
   Glucose
   288
   Other labs: PT / PTT / INR:18.1/34.1/1.7, Ca++:8.4 mg/dL, Mg++:2.7
   mg/dL, PO4:6.7 mg/dL
   Imaging: chest CT reviewed. LLL cavity, pneumothorax, large left
   pleural effusion.
   Assessment and Plan
   56 year old woman with PMH as above who presents with MSSA pneumonia
   now c/b empeyema. S/P chest tube but with minimal drainage so plan
   to go to the OR today for evacuation. On nafcillin, okay with zosyn for
   now. Ruling out for TB, but overwhelmingly most likely pathogen is
   MSSA.
   hemodynamics have normalized with minimal fluid resuscitaion. Will
   restart BB perioperatively. Renal following for PD.  Further plans as
   per resident note.
   ICU Care
   Nutrition:
   Comments: NPO for OR
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2158-12-4**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Lovenox on hold for OR)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU - likely to return from OR intubated
   Total time spent: 30 minutes

2158-12-06 09:16:00 Physician Attending Progress Note
Chief Complaint: Dyspnea
   I saw and examined the patient, and was physically present with the
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 56 year old woman who
   presented with (presumed) MSSA pneumonia c/b bacteremia, cavitation and
   empyema. Now s/p VATS with decortication.
   24 Hour Events:
   OR yesterday for decortication, evacuation of empyema.
   Hypotensive on return - s/p PRBC, NS and on dopamine 3mcg/kg/min
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-12-4**] 10:45 PM
   Nafcillin - [**2158-12-6**] 12:00 AM
   Metronidazole - [**2158-12-6**] 08:21 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-12-6**] 08:21 AM
   Other medications:
   Flowsheet Data as of  [**2158-12-6**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.6
C (99.7
   HR: 95 (76 - 104) bpm
   BP: 111/53(70) {85/50(61) - 137/69(87)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  4,005 mL
                                                                  2,166 mL
   PO:
                                                                    150 mL
           TF:
   IVF:
                                                                  1,717 mL
                                                                  1,480 mL
   Blood products:
                                                                  2,138 mL
                                                                    546 mL
   Total out:
                                                                  1,455 mL
                                                                 -1,175 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,550 mL
                                                                  3,341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 23 cmH2O
   Plateau: 23 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.34/45/122/25/-1
   Ve: 8.5 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes, mild : , Diminished: on L
   )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Awake, interactive, respond to questions and follows simple
   commands
   Labs / Radiology
   8.7 g/dL
   366 K/uL
   173 mg/dL
   12.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   75 mg/dL
   97 mEq/L
   136 mEq/L
   24.4 %
   21.0 K/uL
        [image002.jpg]
                            [**2158-12-5**]  03:50 AM
                            [**2158-12-5**]  06:00 PM
                            [**2158-12-5**]  07:17 PM
                            [**2158-12-5**]  08:58 PM
                            [**2158-12-6**]  12:21 AM
                            [**2158-12-6**]  04:23 AM
                            [**2158-12-6**]  04:34 AM
   WBC
   20.0
   19.1
   20.2
   21.0
   Hct
   21.0
   19.3
   24
   23.5
   20.2
   24.4
   Plt
   553
   469
   428
   366
   Cr
   13.3
   13.2
   12.5
   TCO2
   26
   25
   Glucose
   288
   96
   107
   173
   Other labs: PT / PTT / INR:18.2/32.8/1.7, ALT / AST:24/24, Alk Phos / T
   Bili:80/1.5, Lactic Acid:0.8 mmol/L, LDH:274 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:8.4 mg/dL
   Assessment and Plan
   56 year old woman with MSSA pneumonia, bacteremia and empeyema. Now s/p
   OR. BAL showing GPC, just PMN's on gram stain from pleural space but
   cultures pending. Chest tubes draining slowly, will likely need chest
   CT to assess position. Continues on naf and flagyl pending final
   culture data but likely can use naf alone. Currently on CMV with
   minimal PEEP and fi02 will switch to PS today and aim to extubate. More
   recently have been suctioning very thick blood clots and what seemed
   almost like solid tissue. She was apparently a very difficult
   intubation, fiberoptic. I will bronch to evaluate airway and secretions
   prior to extubation.
   Low dose dopamine requirement likely related to sedation and
   hypovolemia. 500 cc NS bolus now and wean dopamine rapidly.
   Continues on peritoneal dialysis.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Holding pending possible extubation
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-12-4**] 10:00 PM
   Arterial Line - [**2158-12-5**] 09:00 PM
   18 Gauge - [**2158-12-5**] 09:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2158-12-07 10:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory Insuffciency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 year old woman with PMH Type I DM, ESRD on PD, who presents with
   MSSA pneumonia complicated by cavitation and empeyema. Now s/p VATS and
   and chest tube placement. Intubated in the OR and remains so [**1-21**]
   traumatic/difficult intubation and lack of cuff leak.
   24 Hour Events:
   S/P bronch yesterday.
   No cuff leak yesterday
   Fever to 101.1 yeasterday
   Dopamine off
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-12-4**] 10:45 PM
   Nafcillin - [**2158-12-7**] 06:00 AM
   Metronidazole - [**2158-12-7**] 08:34 AM
   Infusions:
   Insulin - Regular - 2.5 units/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Metoprolol - [**2158-12-6**] 02:32 PM
   Midazolam (Versed) - [**2158-12-6**] 08:00 PM
   Fentanyl - [**2158-12-6**] 08:00 PM
   Dextrose 50% - [**2158-12-7**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-12-7**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 98 (89 - 108) bpm
   BP: 151/66(91) {86/45(58) - 181/77(113)} mmHg
   RR: 17 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,583 mL
                                                                    806 mL
   PO:
             TF:
   IVF:
                                                                  2,837 mL
                                                                    531 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                 -1,220 mL
                                                                    870 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,803 mL
                                                                    -64 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 486 (385 - 546) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.39/42/86/24/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: L base)
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   358 K/uL
   117 mg/dL
   11.7 mg/dL
   24 mEq/L
   2.9 mEq/L
   66 mg/dL
   95 mEq/L
   134 mEq/L
   22.5 %
   17.5 K/uL
        [image002.jpg]
                            [**2158-12-5**]  07:17 PM
                            [**2158-12-5**]  08:58 PM
                            [**2158-12-6**]  12:21 AM
                            [**2158-12-6**]  04:23 AM
                            [**2158-12-6**]  04:34 AM
                            [**2158-12-6**]  10:58 AM
                            [**2158-12-6**]  08:11 PM
                            [**2158-12-7**]  03:06 AM
                            [**2158-12-7**]  03:18 AM
                            [**2158-12-7**]  09:55 AM
   WBC
   20.2
   21.0
   17.5
   Hct
   24
   23.5
   20.2
   24.4
   26.6
   22.5
   Plt
   428
   366
   358
   Cr
   13.2
   12.5
   11.7
   TCO2
   26
   25
   25
   27
   26
   Glucose
   96
   107
   173
   117
   Other labs: PT / PTT / INR:18.2/32.8/1.7, ALT / AST:24/24, Alk Phos / T
   Bili:80/1.5, Lactic Acid:0.8 mmol/L, LDH:274 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:7.5 mg/dL
   Imaging: CXR with persistent left effusion
   Assessment and Plan
   56 year old woman with PMH history as above presents with MSSA
   pneumonia c/b empeyema , L hydropneumothorax, now s/p VATS.
   Difficult intubation in the OR, on minimal vent settings with adequate
   gas exchange but still lacks cuff leak. Will start solumedrol 20mg
   q4hrs
   today with hopes of extubation in am potentially with anesthesia
   present. All cultures appear to be growing MSSA. Final AFB today, PPD
   negative.
   Can DC flagyl. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Tube feeds started this am
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2158-12-4**] 10:00 PM
   Arterial Line - [**2158-12-5**] 09:00 PM
   18 Gauge - [**2158-12-5**] 09:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2158-12-08 10:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Insuffciency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 year old woman withPMH ESRD onPD, Type I DM, presents with MSSA
   pneumonia complicated by cavitation, BPF and empeyema. No w s/p VATS
   and still intubated [**1-21**] lack of cuff leak.
   24 Hour Events:
   Solumedrol yesterday
   AFB negative x 3
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2158-12-7**] 08:34 AM
   Nafcillin - [**2158-12-8**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2158-12-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-12-8**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 76 (76 - 104) bpm
   BP: 135/60(84) {94/47(59) - 152/69(95)} mmHg
   RR: 13 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,798 mL
                                                                    523 mL
   PO:
             TF:
                                                                    192 mL
   IVF:
                                                                    961 mL
                                                                    443 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    -80 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    658 mL
                                                                    603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 420 (400 - 508) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 5.8 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   ), No cuff leak
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   384 K/uL
   153 mg/dL
   11.2 mg/dL
   25 mEq/L
   3.5 mEq/L
   61 mg/dL
   92 mEq/L
   131 mEq/L
   24.2 %
   18.4 K/uL
         [image002.jpg]
                            [**2158-12-6**]  12:21 AM
                            [**2158-12-6**]  04:23 AM
                            [**2158-12-6**]  04:34 AM
                            [**2158-12-6**]  10:58 AM
                            [**2158-12-6**]  08:11 PM
                            [**2158-12-7**]  03:06 AM
                            [**2158-12-7**]  03:18 AM
                            [**2158-12-7**]  09:55 AM
                            [**2158-12-7**]  04:13 PM
                            [**2158-12-8**]  03:28 AM
   WBC
   21.0
   17.5
   18.4
   Hct
   20.2
   24.4
   26.6
   22.5
   23.7
   24.2
   Plt
   366
   358
   384
   Cr
   12.5
   11.7
   11.2
   TCO2
   25
   25
   27
   26
   Glucose
   173
   117
   153
   Other labs: PT / PTT / INR:20.0/43.7/1.9, ALT / AST:19/16, Alk Phos / T
   Bili:82/0.7, Lactic Acid:0.8 mmol/L, LDH:267 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:8.0 mg/dL
   Assessment and Plan
   56 year old woman with PMH as above. Plan as per resident note.
   Briefly, MSSA pneumonia complicated by empeyema. Minimal chest tube
   output
   today and no cuff leak despite solumedrol. Will check neck and chest CT
   today but suspect we will have to extubate (with bronchscope and
   anesthsia)
   without cuff leak. Continue PS 5/5. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Tube feeds on hold pending possible extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2158-12-5**] 09:00 PM
   18 Gauge - [**2158-12-5**] 09:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2158-12-10 10:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory insuffciency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 year old woman with PMH of DM I , ESRD on PD who presents with MSSA
   pneumonia c/b empeyema. S/P VATS with chest tubes in place. Please see
   previous notes for details
   24 Hour Events:
   Extubated yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2158-12-10**] 05:45 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2158-12-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-12-10**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 86 (76 - 99) bpm
   BP: 135/61(86) {92/38(56) - 165/76(103)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    863 mL
                                                                    423 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    813 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  5,089 mL
                                                                  1,520 mL
   Urine:
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,226 mL
                                                                 -1,097 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 136 (136 - 136) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.40/44/86/29/1
   Ve: 8.8 L/min
   PaO2 / FiO2: 86
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   535 K/uL
   86 mg/dL
   9.7 mg/dL
   29 mEq/L
   2.6 mEq/L
   47 mg/dL
   93 mEq/L
   136 mEq/L
   26.5 %
   13.0 K/uL
        [image002.jpg]
                            [**2158-12-6**]  10:58 AM
                            [**2158-12-6**]  08:11 PM
                            [**2158-12-7**]  03:06 AM
                            [**2158-12-7**]  03:18 AM
                            [**2158-12-7**]  09:55 AM
                            [**2158-12-7**]  04:13 PM
                            [**2158-12-8**]  03:28 AM
                            [**2158-12-9**]  03:50 AM
                            [**2158-12-10**]  03:51 AM
                            [**2158-12-10**]  04:00 AM
   WBC
   17.5
   18.4
   12.3
   13.0
   Hct
   26.6
   22.5
   23.7
   24.2
   23.7
   26.5
   Plt
   358
   384
   470
   535
   Cr
   11.7
   11.2
   10.4
   9.7
   TCO2
   25
   27
   26
   28
   Glucose
   117
   153
   102
   86
   Other labs: PT / PTT / INR:16.8/33.6/1.5, ALT / AST:19/16, Alk Phos / T
   Bili:82/0.7, Differential-Neuts:86.4 %, Lymph:7.8 %, Mono:3.1 %,
   Eos:2.5 %, Lactic Acid:0.8 mmol/L, LDH:267 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   56 years old woman with MSSA pneumonia c/b empeyema.
   1. PNA: On Nafcillin , S/P VATS with three chest tubes in place, now
   with increased drainage. Will t/b with thoracics re:
   further management of chest tubes given persistent loculated effusion.
   Difficult intubation and
   some airway edema. Now s/p 48 hours of solumedrol with + cuff leak and
   RSBI ~40-50. Will extubate with anesthsia present today.
   2. CRF: on PD
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2158-12-5**] 09:00 PM
   18 Gauge - [**2158-12-5**] 09:00 PM
   Multi Lumen - [**2158-12-8**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   Communication:  with family
   Code status: Full code
   Disposition :Transfer to floor